US08629277B2
Benzyl-piperidin-4-one
A mixture of 4-piperidone monohydrate hydrochloride (2.5 g, 14.56 mmol) and anhydrous potassium carbonate (7 g, 50.64 mmol) in dry DMF (25 mL) was stirred for 30 min at room temperature. Benzyl bromide (2 mL, 16.82 mmol) was added dropwise into the reaction mixture and heated at 65° C. for 14 h. The reaction mixture was cooled to room temperature, filtered and quenched with ice water (25 mL). The resulting mixture was extracted in ethyl acetate (2×20 mL) and the combined organic layers were washed with water (2×15 mL) followed by brine (20 mL). The organic phase obtained was dried over anhydrous sodium sulphate and evaporated. The crude product obtained was purified by crystallisation using 2% methanol in chloroform to afford the title compound.

reactant | 4-piperidone monohydrate hydrochloride | 14.56 mmol, 2.5 g | Cl.O.N1CCC(CC1)=O
reactant | potassium carbonate | 50.64 mmol, 7 g | C([O-])([O-])=O.[K+].[K+]
reactant | Benzyl bromide | 16.82 mmol, 2 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | Benzyl-piperidin-4-one | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
